US08426402B2
tert-Butyl 1-methyl-5-(1-methyl-2-(1-methyl-5-(1-methyl-5-(2-(pyridin-2-yldisulfanyl)ethylcarbamoyl)-1H-pyrrol-3-ylcarbamoyl)-1H-pyrrol-3-ylcarbamoyl)-1H-imidazol-4-ylcarbamoyl)-1H-pyrrol-3-ylcarbamate (229)
4-(4-(4-(4-(tert-butoxycarbonylamino)-1-methyl-1H-pyrrole-2-carboxamido)-1-methyl-1H-imidazole-2-carboxamido)-1-methyl-1H-pyrrole-2-carboxamido)-1-methyl-1H-pyrrole-2-carboxylic acid (102 mg, 0.17 mmol), 2-(pyridin-2-yldisulfanyl)ethanamine hydrogen chloride salt (40 mg, 0.18 mmol), DIPEA (30 ul, 0.17 mmol) and EDC (200 mg, 1.04 mmol) in 2 ml of DMA were stirred under Ar for 24 h, evaporated and purified on SiO2 chromatography eluted with THF/DCM (1:5 to 1:4) to afford 90 mg (68%) of the title compound. 1H NMR (DMSO) 10.93 (s, 1H), 10.19 (s, 1H), 10.06 (s, 1H), 9.03 (s, 1H), 8.81 (m 1H), 8.29 (m, 1H), 8.03 (m, 1H), 7.68 (s, 1H), 7.47 (s, 1H), 7.28 (s, 1H), 7.24 (s, 1H), 7.18 (m, 1H), 6.87 (s, 1H), 3.96 (s, 1H), 3.86 (s, 3H), 3.75 (s, 3H), 3.73 (s, 3H), 3.58 (m, 2H), 2.48 (m, 2H), 1.45 (s, 9H); MS m/z+ 798.0 (M+Na), 776.0 (M+H).

reactant | 4-(4-(4-(4-(tert-butoxycarbonylamino)-1-methyl-1H-pyrrole-2-carboxamido)-1-methyl-1H-imidazole-2-carboxamido)-1-methyl-1H-pyrrole-2-carboxamido)-1-methyl-1H-pyrrole-2-carboxylic acid | 0.17 mmol, 102 mg | C(C)(C)(C)OC(=O)NC=1C=C(N(C1)C)C(=O)NC=1N=C(N(C1)C)C(=O)NC=1C=C(N(C1)C)C(=O)NC=1C=C(N(C1)C)C(=O)O | C28H33N9O7
reactant | 2-(pyridin-2-yldisulfanyl)ethanamine hydrogen chloride salt | 0.18 mmol, 40 mg | Cl.N1=C(C=CC=C1)SSCCN
reactant | DIPEA | 0.17 mmol, 30 ul | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC | 1.04 mmol, 200 mg
solvent | DMA | 2 ml | CC(=O)N(C)C | C4H9NO
product | tert-Butyl 1-methyl-5-(1-methyl-2-(1-methyl-5-(1-methyl-5-(2-(pyridin-2-yldisulfanyl)ethylcarbamoyl)-1H-pyrrol-3-ylcarbamoyl)-1H-pyrrol-3-ylcarbamoyl)-1H-imidazol-4-ylcarbamoyl)-1H-pyrrol-3-ylcarbamate | 90 mg, 68% | CN1C=C(C=C1C(NC=1N=C(N(C1)C)C(NC1=CN(C(=C1)C(NC1=CN(C(=C1)C(NCCSSC1=NC=CC=C1)=O)C)=O)C)=O)=O)NC(OC(C)(C)C)=O | C35H41N11O6S2
